Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / atenolol / Iodinated Contrast Media - IV Dye / 
nifedipine / morphine / Dilaudid
 
Attending: ___.
 
Chief Complaint:
Facial swelling
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ woman with a history of 
angioedema presenting with facial and leg swelling. Patient 
reports a long history of intermittent swelling of the face and 
legs. She had initially been on ACE inhibitors but this was 
discontinued due to reported allergies.  
 She says about 4 days ago she started noticing hives in 
different areas of her body. Then this morning her face started 
to feel swollen. She became concerned and so came to the ER. She 
denied any chest pain, abdominal pain, difficulty breathing, 
change in voice, cough, wheezing. Regarding recent changes, she 
states that she started taking Celexa for depression about ___ 
weeks ago. She took amoxicillin for a pneumonia a few weeks ago 
and then diflucan for a resulting yeast infection. This morning 
she ate tilapia and shrimp ___. She reports a history of 
allergies to wheat products but endorses eating many wheat 
product, i.e. she prefers wheat bread. She states she used to 
see an allergist > ___ yrs ago. Does not take any meds other than 
the celexa on a daily basis. Family members have history of 
"allergies" but no one has facial swelling like her.  
 
 In the ED, initial vitals: T 97.4, HR 73, BP 140/85, RR 16, 
100% RA. Exam was notable for left facial/lip swelling, no 
tongue or uvular swelling, no wheezes or stridor.  
 She received:  
 ___ 18:01 IV Famotidine 20 mg  
 ___ 18:01 IV DiphenhydrAMINE 50 mg  
 ___ 18:01 IVF 1000 mL NS @ 250 mL/hr  
 
On arrival to the FICU, VSS and she felt comfortable. Endorses 
some polydipsia recently. States her mood has been better with 
the Celexa. Denies fevers, chills, chest pain, shortness of 
breath, nausea, vomiting, abdominal pain, dysuria, myalgias, 
arthralgias.  

 
Past Medical History:
Depression  
Self-reported "borderline lupus"  

 
Social History:
___
Family History:
Several family members have allergies, but no history of facial 
swelling
 
Physical Exam:
ADMISSION
Vitals: 97.9 140/89 55 14 99RA  
 GENERAL: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, no airway edema 
appreciated  
 NECK: supple, JVP not elevated, no LAD  
 LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: bradycardic, normal rhythm, systolic murmur appreciated 
over mitral valve area  
 ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
 EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 SKIN: Erythematous patch noted R lateral leg and medial aspect 
of R forearm  
 NEURO: L facial paralysis noted mostly around mouth  

DISCHARGE
Vitals: 98.9 160/89 62 14 99RA  
 GENERAL: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, no airway edema 
appreciated; no facial edema appreciated  
 NECK: supple, JVP not elevated, no LAD  
 LUNGS: Minimal basilar crackles bilaterally, no wheezes, 
rhonchi  
 CV: regular rate, normal rhythm, systolic murmur appreciated 
over mitral valve area  
 ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
 EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 SKIN: Erythematous patch noted R lateral leg and medial aspect 
of R forearm  
 NEURO: L facial paralysis noted mostly around mouth.   

 
Pertinent Results:
ADMISSION
___ 07:15PM BLOOD WBC-5.7 RBC-3.74* Hgb-10.3*# Hct-30.7*# 
MCV-82 MCH-27.5 MCHC-33.6 RDW-14.3 RDWSD-41.6 Plt ___
___ 07:15PM BLOOD Glucose-86 UreaN-13 Creat-0.9 Na-143 
K-3.7 Cl-113* HCO3-21* AnGap-13

IMAGES
IMPRESSION:  
Mild cardiomegaly unchanged.  Mild interstitial abnormality 
right lung could be residual edema.  Conventional chest 
radiographs would be helpful.  No appreciable pleural effusion.  
No focal findings to suggest pneumonia. 

DISCHARGE
___ 05:47AM BLOOD WBC-5.7 RBC-3.69* Hgb-10.2* Hct-30.3* 
MCV-82 MCH-27.6 MCHC-33.7 RDW-14.5 RDWSD-42.6 Plt ___
___ 05:47AM BLOOD Glucose-88 UreaN-10 Creat-0.8 Na-142 
K-3.9 Cl-112* HCO3-23 AnGap-11
___ 05:47AM BLOOD ALT-39 AST-27 AlkPhos-61 TotBili-0.2
___ 05:47AM BLOOD C1 INHIBITOR-PND
___ 05:47AM BLOOD C4-PND
 
Brief Hospital Course:
Ms. ___ ___ yo F with history of facial swelling to 
unknown stimulus presents to the ED for facial swelling.  

 #Facial edema: Although her exam is benign on presentation, she 
had already received H1 and H2 blockers in the ED. She showed us 
pictures of her typical reaction, which includes asymmetric 
facial swelling, mostly of the lips and surrounding mucosa. This 
is associated with a pruritis and skin lesions concerning for 
hives. This fits with angioedema, more specifically mast 
cell-mediated angioedema (as opposed to C1 esterase inhibitor 
deficiency). She was continued on daily cetirizine and 
famotidine.  No steroids were given due to her stable clinical 
picture.  C4 and C1 esterase inhibitor levels ordered, however 
remain pending at time of discharge. It is believed that Celexa 
could be trigger for her episodes of angioedema. We asked 
patient to discontinue this medication and to follow up with her 
PCP ___ 1 week. We were in touch with PCP's office which are 
aware of patient's admission and pending complement studies. 
Discharged patient on Zyrtec and Famotidine.  
 
  #Depression: Celexa was discontinued due to concern for it 
triggering her facial edema. Patient agreed to follow up with 
primary care doctor about starting another agent. She denied 
suicidal ideation at this time. She was in agreement that if 
this medication was causing her symptoms, it would be worth 
discontinuing. 

  #Mild interstitial abnormality right lung: Finding on CXR. 
Could be residual edema vs interstitial lung disease. Given 
patient's history of Lupus, this should be a transitional issue 
for patient. PCP's office was also made aware of the lung 
findings on CXR. Patient was ambulated for 10 minutes and her O2 
saturation remained at 95%. 

  #Hypertension: Patient hypertensive to 170s while in ICU. 
Patient does not take any hypertensive medications and notes 
that this is not normal for her. She states that she has been 
quite anxious during her stay here which makes her blood 
pressure rise. Patient was advised to follow up this issue with 
PCP; risks of high blood pressure were discussed. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 10 mg PO QAM 

 
Discharge Medications:
1. Cetirizine 10 mg PO DAILY 
RX *cetirizine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
2. Famotidine 20 mg PO DAILY 
RX *famotidine 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3
3. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 Duration: 1 Dose 
RX *epinephrine [EpiPen 2-Pak] 0.3 mg/0.3 mL  (1:1,000) 1 
injection SQ Once Disp #*1 Package Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
===================
Angioedema
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. ___,

It was a pleasure caring for you during your hospitalization at 
___.  You were admitted for swelling of your lips, called 
angioedema.  This resolved with medication.  You were monitored 
overnight in the ICU and remained stable.

Please follow up with your primary care physician ___ ___ days, 
they are aware of your admission here and will be expecting you 
to follow up.  You should also schedule an appointment with an 
allergist and a Rheumatologist.  Your primary care physician can 
help you schedule this appointment.  

It is very important that you continue to take an allergy 
medication (we are prescribing you Zyrtec) and an H2 blocker (we 
are prescribing you Famotidine) when you leave here to prevent 
future recurrences of the angioedema.  We are concerned that the 
swelling may have been caused by the Celexa that you recently 
started and we are stopping this medication.  Please follow up 
with your therapist and Psychiatrist to discuss other options to 
continue to address your depression. 

We wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___